US04014904
At 0° to 5°C and while stirring, 36 parts (by weight) of methylaminosulfonyl chloride was added to a solution of 48.8 parts of 2,3-dihydro-3,3-dimethyl-2-morpholino-5-hydroxybenzofuran and 27.3 parts of triethylamine in 130 parts of tetrahydrofuran. The reaction mixture was stirred for 1 hour at room temperature and then filtered. The filtrate was concentrated in vacuo and the residue dissolved in 250 parts of methanol. After addition of 100 parts of water and treatment of the solution with activated carbon, crystallization was initiated by cooling. The mush of crystals was suction filtered, washed with 50wt% aqueous methanol and dried in vacuo. The crude product melted at 125° to 128°C. Pure 2,3-dihydro-3,3-dimethyl-2-morpholinobenzofuran-5-yl methylaminosulfonate was obtained by recrystallizing a sample from 80% methanol.

reactant | methylaminosulfonyl chloride | CNS(=O)(=O)Cl | CH4ClNO2S
reactant | 2,3-dihydro-3,3-dimethyl-2-morpholino-5-hydroxybenzofuran | CC1(C(OC2=C1C=C(C=C2)O)N2CCOCC2)C | C14H19NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3-dihydro-3,3-dimethyl-2-morpholinobenzofuran-5-yl methylaminosulfonate | CNS(=O)(=O)OC=1C=CC2=C(C(C(O2)N2CCOCC2)(C)C)C1 | C15H22N2O5S
